US04426386
Example I1. N-Butyl-3-(3-methoxyphenyl)piperidine hydrochloride (Method A1 and e)
Butyryl chloride (2.0 g, 0.019 mol) in dry toluene (5 ml) was slowly added to a solution of 3-methoxyphenylpiperidine (2.45 g, 0.013 mol) and triethylamine (1.92 g, 0.013 mol) in dry toluene at 5°. The mixture was stirred at room temperature for 30 min., whereupon the triethylammonium chloride formed was filtered off and the solvent evaporated. The crude N-butyryl-3-(3-methoxyphenyl)piperidine (2.82 g) dissolved in dry tetrahydrofuran (30 ml) was added to a suspension of LiAlH4 (2.0 g) in dry tetrahydrofuran (30 ml) under nitrogen. After reflux for 3 h in the mixture was hydrolysed, the precipitate filtered off and the solvent evaporated. The residue dissolved in light petroleum was passed through an alumina column. (Alternatively the residue could be distilled in vacuo). The product was precipitated as the hydrochloride and recrystallized from ethanol/ether yielding the pure product (3.6 g, 88%) mp 130°-1° C.

reactant | Butyryl chloride | 0.019 mol, 2.0 g | C(CCC)(=O)Cl | C4H7ClO
reactant | 3-methoxyphenylpiperidine | 0.013 mol, 2.45 g | COC=1C=C(C=CC1)N1CCCCC1 | C12H17NO
reactant | triethylamine | 0.013 mol, 1.92 g | C(C)N(CC)CC | C6H15N
reactant | triethylammonium chloride | [Cl-].C(C)[NH+](CC)CC
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-Butyl-3-(3-methoxyphenyl)piperidine hydrochloride | Cl.C(CCC)N1CC(CCC1)C1=CC(=CC=C1)OC | InChI=1S/C16H25NO.ClH/c1-3-4-10-17-11-6-8-15(13-17)14-7-5-9-16(12-14)18-2;/h5,7,9,12,15H,3-4,6,8,10-11,13H2,1-2H3;1H
